US04749812
To 20 ml of dimethylformamide were added 1.0 g (5.9/1000 mole) of 3-chloro-4-isopropylaniline and 0.5 g of potassium carbonate, and 1 g (6.5/1000 mole) of cyclopropanecarboxylic anhydride was added. The mixture was stirred under ice cooling. Three hours later, 80 ml of water was added to the reaction mixture, and the mixture extracted with toluene. The toluene solution was dried over anhydrous magnesium sulfate, and then concentrated by an evaporator. The resulting oily product was isolated and purified by silica gel column chromatography [eluent: toluene/ethyl acetate=30/1 (v/v)] to give 1.2 g of N-(3-chloro-4-isopropylphenyl)cyclopropanecarboxamide as a solid in a yield of 85.6 % based on 3-chloro-4-isopropylaniline.

reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 3-chloro-4-isopropylaniline | 1000 mole, 1.0 g | ClC=1C=C(N)C=CC1C(C)C | C9H12ClN
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropanecarboxylic anhydride | 1000 mole, 1 g | C1(CC1)C(=O)OC(=O)C1CC1 | C8H10O3
solvent | water | 80 ml | O | H2O
product | N-(3-chloro-4-isopropylphenyl)cyclopropanecarboxamide | 1.2 g, yield of 85.6 % | ClC=1C=C(C=CC1C(C)C)NC(=O)C1CC1 | C13H16ClNO
